data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_501555_1,[C@@:1]([C:3]([H:17])([H:18])[H:19])([C:6](=[C:8]([C:4]([H:20])([H:21])[H:22])[C:5]([H:23])([H:24])[H:25])[N:9]([H:12])[H:13])([C:7]([C:2]([H:14])([H:15])[H:16])=[O:10])[H:11]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:6](/[C:8]([C:4]([H:20])([H:21])[H:22])([C:5]([H:23])([H:24])[H:25])[C:7]([C:2]([H:14])([H:15])[H:16])=[O:10])[N:9]([H:12])[H:13])[H:11],49.557440000007205
MR_235835_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]([C:2]([N:7]([H:11])[H:12])([H:13])[H:14])=[C:8]([H:21])[H:22])[N:6]([H:9])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]1([H:14])[C:2]([N:7]([H:11])[H:12])([H:13])[C:8]1([H:21])[H:22])[N:6]([H:9])[H:10],63.51429499997508
MR_312438_0,[N:1](=[C:3](\[N:5]([H:11])[H:12])[C:6](/[C:2]([N:4]([H:9])[H:10])=[N:7]\[H:13])([H:14])[H:15])\[H:8]>>[N:1](/[C:2]([N:4]([H:9])[H:10])=[N:7]\[H:13])([C:3]([N:5]([H:11])[H:12])=[C:6]([H:14])[H:15])[H:8],71.38377249997433
MR_308486_2,[C:1]([C:2]([N:5]([H:14])[H:15])([C:7](=[C:8]([H:20])[H:21])[H:19])[H:11])(/[C:3]([N:6]([H:16])[H:17])=[N:9]/[H:18])([N:4]([H:12])[H:13])[H:10]>>[C:1](/[C:2](=[N:5]/[H:14])[H:11])([C:3]([N:6]([H:16])[H:17])([C:7](=[C:8]([H:20])[H:21])[H:19])[N:9]([H:15])[H:18])([N:4]([H:12])[H:13])[H:10],66.88271500003125
MR_91217_1,[C:1]([N:5]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])/[C:7]([C:4]([H:19])([H:20])[H:21])=[N:8]\[C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:1](/[N:5]=[C:7](/[C:4]([H:19])([H:20])[H:21])[N:8]([C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:10])([H:11])[H:12],22.53101499997144
MR_389186_1,[C:1](/[N:8]=[C:3]([N:5]([H:12])[H:13])/[C:6](=[C:2](/[N:4]([H:10])[H:11])[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:8]1[C@@:2]([N:4]([H:10])[H:11])([O:7][H:9])[C:6]([H:14])=[C:3]1[N:5]([H:12])[H:13])([H:15])([H:16])[H:17],39.56324749998629
MR_456406_1,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:7])([O:4][N:5]=[O:6])([H:8])[H:9]>>[C:1]([O:4][C:3]([C:2]([H:10])([H:11])[H:12])=[O:7])([N:5]=[O:6])([H:8])[H:9],61.08461500000999
MR_138910_0,[C:1]1([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[C:2]([C:3]([N:7]([H:12])[H:13])([C:8](=[O:9])[H:16])[H:11])([H:10])[C:4]1([H:14])[H:15]>>[C:1]([C:4](/[C:2](=[C:3](/[N:7]([H:12])[H:13])[H:11])[H:10])([H:14])[H:15])([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[C:8](=[O:9])[H:16],60.104460000023465
MR_604134_1,[C:1]([N:4]([H:11])[H:12])(/[C:5](=[C:3](\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])([O:6][H:8])[H:10]>>[C:1](=[C:5](/[C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:11])[H:12])[O:7][H:9])[H:13])(\[O:6][H:8])[H:10],60.01096249997417
MR_41965_1,[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]/[H:12])([N:3]([H:8])[H:9])/[C:5](=[N:7]/[H:13])[H:14]>>[N:1](=[C:2](/[N:4]([H:10])[H:11])[N:6](/[C:5](=[N:7]/[H:13])[H:14])[H:12])\[N:3]([H:8])[H:9],43.4117049999719
MR_588193_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])([O:6][O:7][C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])[O:8][H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])([O:7][O:6][C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])[O:8][H:9],70.56425749997459
MR_41265_2,[C:1]1(/[C:5]([N:6]([H:9])[H:10])=[N:7]/[C:4]([H:15])([H:16])[H:17])([H:8])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14]>>[C:1]1([H:8])=[C:5]([N:6]([H:9])[H:10])[N:7]([C:4]([H:15])([H:16])[H:17])[C:3]([H:13])([H:14])[C:2]1([H:11])[H:12],56.90734749996281
MR_144798_2,[C:1]1(=[N:8]/[H:9])\[C:2]([C:3](=[C:6]([H:14])[H:15])[H:10])([C:4](=[C:7]([H:16])[H:17])[H:11])[C:5]1([H:12])[H:13]>>[C:1]([C:2]([C:4](=[C:7]([H:16])[H:17])[H:11])=[C:5]([H:12])[H:13])([C:3](=[C:6]([H:14])[H:15])[H:10])=[N:8][H:9],72.04892250000711
MR_61460_2,[C:1](/[C:4]([C:7](=[C:5]([C:2]([H:17])([H:18])[H:19])[C:3]([H:15])([H:16])[H:20])[H:11])=[N:8]\[N:6]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:7]([H:11])[C:5]([C:2]([H:17])([H:18])[H:19])([C:3]([H:15])([H:16])[H:20])[N:8]1[N:6]([H:9])[H:10])([H:12])([H:13])[H:14],38.97214249998058
MR_684505_0,[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:3](/[N:5]([H:10])[H:11])[O:7][H:9])([C:6](=[O:8])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3]([N:5]([H:10])[H:11])([O:7][H:9])[C:4]1([C:2]([H:15])([H:16])[H:17])[C:6](=[O:8])[H:12],71.04429500001103
MR_97786_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4]([H:8])[H:9])/[C:6](=[C:7](/[N:5]([H:10])[H:11])[H:13])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:6]([C:7]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:13])[H:12],59.83651750002224
MR_200290_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:6](\[C:4]([H:19])([H:20])[H:21])[N:7]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](\[C:3]([H:16])([H:17])[H:18])[C:6]([C:4]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[O:8][H:9])[H:10],46.88491750001319
